US09034866B2
10-bromo-2-carbamoyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-3-carboxylic acid was reacted with isopropylamine similarly to as described in example 2 with non-critical modifications to afford 166 mg (99%) 10-bromo-N3-isopropyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2,3-dicarboxamide. 10-bromo-N3-isopropyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2,3-dicarboxamide was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford 43 mg (23%) of 10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-N3-isopropyl-5,6,7,12-tetrahydro-5,7-methanobenzo [c]imidazo[1,2-a]azepine-2,3-dicarboxamide.

reactant | 10-bromo-2-carbamoyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-3-carboxylic acid | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(N)=O)C(=O)O)C1 | C15H12BrN3O3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 10-bromo-N3-isopropyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2,3-dicarboxamide | 166 mg, 99% | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C(=O)NC(C)C)C1 | C18H19BrN4O2
